US05254595
Following the procedure of Example 27, but starting from 4-(2,3-epoxypropoxy)-1-oxoindane (18.8 g, see JP 49-048649) and 2-aminotetralin (14.81 g) in absolute ethanol (120 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-oxoindan-4-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 35, and the chain is attached to position 2 of the tetralin moiety).

reactant | 4-(2,3-epoxypropoxy)-1-oxoindane | 18.8 g | O1C(COC2=C3CCC(C3=CC=C2)=O)C1 | C12H12O3
reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-oxoindan-4-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=C2CCC(C2=CC=C1)=O)O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-aminotetralin | 14.81 g | NC1CC2=CC=CC=C2CC1 | C10H13N
